Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 L MCA syndrome
 
Major Surgical or Invasive Procedure:
PEG  ___

 
History of Present Illness:
___ (MRN ___ is a ___ year old man with history of
HTN, HLD, GERD, and unknown cancer within lymph node behind L 
ear
for which he received radiation ___ years ago who presented to
___ as a transfer from ___ for consideration of
thrombectomy.

His last known normal was 11pm on ___ when he went to bed in
his normal state of health. He usually wakes up at 6:30am to go
to work at a ___ station, but did not wake up for work on ___.
His daughter went into his room and found him lying on the floor
having urinated on himself. EMS was called and he was taken to
___. On arrival, his GCS was noted to be 4 and he
was intubated. At that time, his eyes were noted to be deviated
to the left. 

A CT scan was performed that showed a hyperdense left M1, so a
CTA was performed which showed cutoff at the bifurcation of the
internal carotid artery without reconstitution. At this point, 
he
was transferred to ___ for thrombectomy. On arrival to ___,
his NIHSS was 24 (on propofol) and he was taken to thrombectomy.
Thrombectomy was aborted as the carotid thrombus was unable to 
be
passed.

Additionally, a foley placed at ___ was noted to 
be
draining frank blood. The foley was noted to not be in the
bladder. The foley was left in place. On arrival to the ICU, the
balloon was deflated and catheter was advanced into the bladder
with return of clear urine per urology recommendations.

 
Past Medical History:
HTN
HLD
GERD
?cancer of lymph node

 
Social History:
___
Family History:
Unknown

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
General: intubated man, lying in bed
HEENT: MMM
CV: RRR
Lungs: CTAB in anterior fields  
Abdomen: soft
GU: foley catheter in place
Ext: warm and well-perfused

Neuro:  
MS- does not open eyes, does not follow commands
CN- Pupils 3->2 and brisk bilaterally, +corneals (weaker on R),
+cough, +gag
Sensory/Motor-  
RUE: extends to noxious stimuli
LUE: moves spontaneously antigravity
RLE: weakly withdraws from noxious stimuli
LLE: moves spontaneously antigravity
-Sensory:
-Coordination: deferred

DISCHARGE EXAM
===============
General: lying in bed in no acute distress, HFNC
HEENT: MMM
CV: RRR
Lungs: CTAB in anterior fields  but coarse BS
Abdomen: soft
GU: foley catheter in place
Ext: warm and well-perfused

Neuro:  
MS- EO Spont,  does not follow commands, few monosyllabic 
utterances will follow some simple commands w/ enouragement
but inconsistent -- better w/ midline than appendicular 
commands.
can occasionally follow two simple commands in tandem but
difficulty w/ anything complex. occasionally frustrated  
CN- Pupils 3->2 bilaterally, coughs, left gaze preference, .  
Sensory/Motor-  
RUE: No movement, doesn't withdraw to proximal or distal pain. 
LUE: ___ strength 
RLE: no movement, doesn't withdraw to proximal or distal pain.  
LLE: ___ strength 

 
 
Pertinent Results:
ADMISSION LABS:
___ 10:34AM BLOOD WBC-8.3 RBC-4.24* Hgb-12.7* Hct-39.0* 
MCV-92 MCH-30.0 MCHC-32.6 RDW-13.2 RDWSD-44.6 Plt ___
___ 10:34AM BLOOD Neuts-84.4* Lymphs-9.8* Monos-4.7* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-7.00* AbsLymp-0.81* 
AbsMono-0.39 AbsEos-0.01* AbsBaso-0.02
___ 10:34AM BLOOD ___ PTT-23.2* ___
___ 10:34AM BLOOD Plt ___
___ 01:20PM BLOOD Glucose-102* UreaN-17 Creat-1.1 Na-143 
K-4.7 Cl-105 HCO3-26 AnGap-12
___ 01:20PM BLOOD ALT-30 AST-29 CK(CPK)-410* AlkPhos-72 
TotBili-0.4
___ 01:20PM BLOOD Calcium-9.2 Phos-2.5* Mg-2.0 Cholest-180
___ 01:20PM BLOOD %HbA1c-6.2* eAG-131*
___ 01:20PM BLOOD Triglyc-191* HDL-58 CHOL/HD-3.1 
LDLcalc-84
___ 01:20PM BLOOD TSH-1.2

DISCHARGE LABS 

___ 11:40AM BLOOD WBC-6.9 RBC-3.99* Hgb-11.5* Hct-36.6* 
MCV-92 MCH-28.8 MCHC-31.4* RDW-12.9 RDWSD-43.6 Plt ___
___ 11:40AM BLOOD Glucose-194* UreaN-29* Creat-1.0 Na-147 
K-4.2 Cl-108 HCO3-32 AnGap-7*
___ 11:40AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.6

CT Perfusion ___:
1.  Large vessel occlusion involving left MCA in M1 segment. 
2.  There is a large area penumbra with a smaller core infarct 
in the left MCA 
vascular territory as demonstrated by CT perfusion. 

NCHCT ___:
1.  Increased conspicuity of the known left MCA distribution 
infarct 
2.  New 1.8 cm, faint oval hyperdensity centered around the left 
putamen, 
which may represent contrast staining from recent cerebral 
angiogram or 
hemorrhagic transformation. 

NCHCT ___ (repeat):
1. Redemonstration of evolving left MCA territory infarct.  
Stable oval 
hyperdensity centered within the left putamen.  Given its 
intermediate 
density, this is suspected to represent contrast staining from 
recent cerebral 
angiogram, although hemorrhagic transformation cannot be 
excluded.  No new 
intracranial hemorrhage. 
2. Stable mass effect, as above. 
3. Paranasal sinus disease. 

MRI 
IMPRESSION: 
  
  
1. Evolving infarction involving most of the left middle 
cerebral artery 
territory, including all of the left basal ganglia, with 
hemorrhagic 
transformation. 
2. Mass-effect with 4 mm midline shift to the right. 
3. Severe stenosis or occlusion of the left internal carotid 
artery in the 
carotid canal and cavernous sinus. 
4. Paranasal sinus mucosal thickening and a left mastoid 
effusion. 

Video swallow 
IMPRESSION:  
  
Gross aspiration with nectar and penetration with pudding and 
honey 
  
Please note that a detailed description of dynamic swallowing as 
well as a 
summative assessment and recommendations are reported separately 
in a 
standalone note by the Speech-Language Pathologist (OMR, Notes, 
Rehabilitation 
Services). 
  

 
Brief Hospital Course:
SUMMARY:
___ year old man with history of HTN, HLD, GERD, and lymphoma 
(cervical lymph node) s/p radiation who presented with a left 
MCA syndrome, taken to thrombectomy which was aborted. Etiology 
of stroke thought to be due to radiation fibrosis of the 
carotid.

TRANSITIONAL ISSUES:
[ ] Pt due for voiding trial ___ per urology, please remove 
foley catheter and bladder scan to ensure not retaining 
[ ] Please monitor pts blood pressure at least ___ daily, if 
persistently elevated (SBP > 150 consistently) please uptitrate 
pt's antihypertensives 
[ ] Please continue to have patient evaluated by SLP given his 
aphasia. 

# Left MCA stroke
Pt presented w/ a left MCA syndrome and was taken for 
thrombectomy. This unfortunately needed to be aborted aborted as 
they were unable to pass the carotid bifurcation due to the 
degree of stenosis, which was presumed to be due to his previous 
radiation treatment. MRI brain showed evolving infarction 
involving the totality of the left MCA territory, including all 
of the left basal ganglia, with areas of hemorrhagic 
transformation, in addition to mild mass effect with 4mm of 
midline shift. LDL was 84 so home simvastatin was transitioned 
to atorvastatin 80mg. HgbA1C was 6.2. Given degree of infarction 
he was monitored closely in the ICU for several days. 
Ultimately, imaging was repeated and demonstrated stable to 
decreased hemorrhagic transformation and Aspirin 81mg was 
started. The patient demonstrated a fairly dense global aphasia 
throughout this admission, though was able to follow some simple 
commands before discharge, though was completely nonverbal. He 
also was noted to have a complete hemiplegia of the right side. 
He was seen by physical therapy and speech therapy this 
admission. 

#Dysphagia 
Pt was unable to swallow due to his acute ischemic stroke. He 
was followed closely by the speech-language pathologists this 
admission. He had a video swallow which confirmed his severe 
dysphagia and a PEG was placed on ___. He was tolerating tube 
feeds prior to discharge. 

# Acute ventilator dependent respiratory failure
He was intubated at the OSH prior to arrival at ___. Extubated 
___, intitially to ___ which was ultimately weaned to room 
air. 

# Misplaced foley catheter
Foley catheter was placed in urethra at OSH. Initially had 
bloody output on arrival to ___. It was advanced to the 
bladder with clear urine output. Per urology should be removed 
between ___ w/ close monitoring for urinary retention. 

#Aspiration pneumonia 
Pt spiked a fever, noted to have leukocytosis and a 
consolidation on chest x-ray, he was treated for an aspiration 
pneumonia w/ Unasyn for seven days ___. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (X) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (X) No. If not, why not? Hemorrhagic transformation 
4. LDL documented? (x) Yes (LDL = 84) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Simvastatin 40 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Senna 8.6 mg PO BID  
7.  Sodium Chloride Nasal ___ SPRY NU Q6H  
8.  Aspirin 81 mg PO DAILY  
9.  Losartan Potassium 100 mg PO DAILY  
10.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary Diagnosis 
================
Acute Ischemic Stroke 

Secondary Diagnoses 
=================
ICA stenosis 
Aspiration pneumonia
Hypertension 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear  ___,

You were hospitalized due to symptoms of  weakness and speech 
difficulties esulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In your case, you were found to have a clot in the one of the 
major arteries to your brain, this is likely because of the 
radiation you had for treatment of your cancer / abnormal lymph 
nodes. We attempted to do a procedure to retrieve the clot, 
however this was unable to be completed. You were monitored in 
the ICU for many days. You were seen by the physical therapy and 
speech teams as well. Ultimately you were still having a lot of 
trouble swelling so you had a feeding tube (PEG) placed in your 
stomach so you could receive nutrition. You were also treated 
for a pneumonia while you were in the hospital. 

We are changing your medications as follows:
- Started atorvastatin 80mg 
- Aspirin 81mg 
- Amlodipine 10mg 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___